US08114868B2
(S)-3-((S)-1-(4-(1-(2-fluoroethyl)-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and 1-(2-fluoroethyl)-4-iodopyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1. LC-MS Method 2 tR=1.09 min, m/z=515, 493, 475, 435.

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 1-(2-fluoroethyl)-4-iodopyridin-2(1H)-one | FCCN1C(C=C(C=C1)I)=O | C7H7FINO
product | (S)-3-((S)-1-(4-(1-(2-fluoroethyl)-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | FCCN1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)=O | C29H33FN2O4
